US06544985B2
4-[3-(5-Hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-7-(methyl-propyl-amino)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[5-(methyl-propyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M102) (0.15 g, 0.22 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (31 mg, 30%).

reactant | (RS)-[5-(methyl-propyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.22 mmol, 0.15 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C33H41F3N6O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(5-Hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-7-(methyl-propyl-amino)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | OCC1=CN=NN1C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)N(CCC)C)C(F)(F)F | C23H23F3N6O2
